US07229999B2
Step 3: 6-Benzylamino-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
A mixture of 16.2 mg (0.047 mmol) 6-benzylamino-5-(4-chloro-phenyl)-nicotinic acid, 19.6 mg (0.06 mmol) TBTU, 6.9 mg (0.06 mmol) (1R,2R)-2-amino-cyclohexanol and 23 mg (0.18 mmol) DIPEA in DMF was shaken at room temperature over night. Acetic acid was added and purified by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile/water/HCOOH. The combined product fractions were evaporated to yield 14.1 mg (55%) of the title compound. MS (m/e): 436.4 (MH+).

reactant | 6-benzylamino-5-(4-chloro-phenyl)-nicotinic acid | 0.047 mmol, 16.2 mg | C(C1=CC=CC=C1)NC1=NC=C(C(=O)O)C=C1C1=CC=C(C=C1)Cl | C19H15ClN2O2
reactant | TBTU | 0.06 mmol, 19.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (1R,2R)-2-amino-cyclohexanol | 0.06 mmol, 6.9 mg | N[C@H]1[C@@H](CCCC1)O | C6H13NO
reactant | DIPEA | 0.18 mmol, 23 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | 6-Benzylamino-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | 14.1 mg, 55% | C(C1=CC=CC=C1)NC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC=C(C=C1)Cl | C25H26ClN3O2
